US07842688B2
c) 2-Bromo-1-(3-methoxypropyl)-1H-imidazole
The solution of 1.05 g of 1-(3-methoxypropyl)-1H-imidazole in 14 ml of tetrahydrofuran is cooled to −70° C. and admixed slowly with 4.6 ml of n-butyllithium (1.6M in hexane). The mixture is stirred at −70° C. over 1 hour and subsequently admixed slowly with the solution of 2.54 g of tetrabromomethane in 14 ml of tetrahydrofuran. After a further 30 minutes, the reaction mixture is admixed with 25 ml of saturated aqueous ammonium chloride solution and extracted with tert-butyl methyl ether (2×25 ml). The organic phases are washed with brine, (20 ml), dried over sodium sulphate, filtered and concentrated by evaporation. The title compound is obtained as a colourless oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.51 (200:20:1 dichloromethane-methanol-conc. ammonia); Rt=1.78.

reactant | 1-(3-methoxypropyl)-1H-imidazole | 1.05 g | COCCCN1C=NC=C1 | C7H12N2O
reactant | n-butyllithium | 1.6M, 4.6 ml | C(CCC)[Li]
reactant | tetrabromomethane | 2.54 g | BrC(Br)(Br)Br | CBr4
reactant | ammonium chloride | 25 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 14 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 14 ml | O1CCCC1 | C4H8O
product | 2-Bromo-1-(3-methoxypropyl)-1H-imidazole | BrC=1N(C=CN1)CCCOC | C7H11BrN2O
